US07605170B2
Palladium (II) acetate (2.4 mg, 0.01 mmol) was added to a suspension of 3-fluoro-5-iodophenol (250 mg, 1.05 mmol), phenylboronic acid (154 mg, 1.26 mmol) and sodium carbonate (3.34 g, 3.15 mmol) in water (5 mL), under an atmosphere of nitrogen. The reaction mixture was stirred at ambient temperature for 16 h. The reaction mixture was then filtered through a plug of dicalite to remove black precipitate. The dicalite was washed with MeOH. The filtrate was diluted with water (250 mL) and then adjusted to pH2 using 2M HCl (aq). The product was extracted into DCM, dried over Na2SO4 and concentrated in vacuo. The crude material was purified by chromatography on silica gel. Elution with 10:90 ethyl acetate:heptane afforded 5-fluorobiphenyl-3-ol (186 mg, 0.988 mmol, 94%) M.S. (ESI) (m/z): 187 [M−H]−.

reactant | 3-fluoro-5-iodophenol | 1.05 mmol, 250 mg | FC=1C=C(C=C(C1)I)O | C6H4FIO
reactant | phenylboronic acid | 1.26 mmol, 154 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 3.15 mmol, 3.34 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | heptane | CCCCCCC | C7H16
solvent | water | 5 mL | O | H2O
catalyst | Palladium (II) acetate | 0.01 mmol, 2.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-fluorobiphenyl-3-ol | 0.988 mmol, 186 mg, 94% | FC=1C=C(C=C(C1)C1=CC=CC=C1)O | C12H9FO
